US06974819B2
1.1. 2-Pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 8.98 g (46.5 mmol) of ethyl 3-(4-pyridyl)-3-oxopropionate and 8.0 g (46.5 mmol) of 2-amino tetrahydropyrimidine dihydrochloride (prepared according to J. Org. Chem. 1955, 20, 829.) and 19.3 g (139.5 mmol) of potassium carbonate in 60 ml of ethanol was heated at reflux temperature during 18 h. The cooled solution was evaporated to removed solvent and the residue was treated with water and extracted with dichloromethane. The extracts were dried and evaporated to give 8.0 g (75%) of product as a white powder. Mp: 219° C.

reactant | ethyl 3-(4-pyridyl)-3-oxopropionate | 46.5 mmol, 8.98 g | N1=CC=C(C=C1)C(CC(=O)OCC)=O | C10H11NO3
reactant | 2-amino tetrahydropyrimidine dihydrochloride | 46.5 mmol, 8.0 g | Cl.Cl.NC1NC=CCN1
reactant | potassium carbonate | 139.5 mmol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-Pyridin-4-yl-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 8.0 g, 75% | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCCN2 | C12H12N4O
